US08530504B2
(76a) N-{3-[2,6-Dimethoxy-4-(methoxymethyl)phenyl]-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl}-1-hydroxycyclopropanecarboxamide
To a N,N-dimethylformamide (6 mL) solution of 3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methoxypyrazolo[5,1-b][1,3]thiazole-7-amine (400 mg, 1.14 mmol) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (0.236 mL, 1.33 mmol) and 1-hydroxybenzotriazole (180 mg, 1.33 mmol), and the mixture was stirred at room temperature over one day and night. Water was added to the reaction mixture, and the reaction mixture was extracted with ethyl acetate and dried over anhydrous magnesium sulfate. The mixture was filtered, and then the solvent in the filtrate was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (a mixed solvent of n-heptane and ethyl acetate: n-heptane/ethyl acetate=1/1 then 1/2) to obtain the title compound (404 mg, 0.93 mmol).

reactant | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
reactant | 3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methoxypyrazolo[5,1-b][1,3]thiazole-7-amine | 1.14 mmol, 400 mg | COC1=C(C(=CC(=C1)COC)OC)C=1N2C(SC1)=C(C(=N2)OC)N | C16H19N3O4S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 1.33 mmol, 0.236 mL | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 1.33 mmol, 180 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | n-heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
solvent | Water | O | H2O
product | N-{3-[2,6-Dimethoxy-4-(methoxymethyl)phenyl]-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl}-1-hydroxycyclopropanecarboxamide | 0.93 mmol, 404 mg | COC1=C(C(=CC(=C1)COC)OC)C=1N2C(SC1)=C(C(=N2)OC)NC(=O)C2(CC2)O | C20H23N3O6S
